US04382929
3-[5-(Dimethylaminomethyl)-3-thienyloxy]-1-propanol
A mixture of 1,3-propanediol (20 ml) and sodium hydride (1 g) was stirred at 80° for 1 h. Copper (II) oxide (1.3 g), sodium iodide (0.05 g) and 4-bromo-N,N-dimethyl-2-thiophenemethanamine (5 g) were added and heating was continued for 2 days. Dilute hydrochloric acid (60 ml) was added and the aqueous solution was washed with diethyl ether (50 ml), basified with aqueous sodium hydroxide and extracted with chloroform (200 ml). The organic extract was distilled to give the title compound (1.7 g) as an off-white wax. m.p. 32°-4°

reactant | 1,3-propanediol | 20 ml | C(CCO)O | C3H8O2
reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | 4-bromo-N,N-dimethyl-2-thiophenemethanamine | 5 g | BrC=1C=C(SC1)CN(C)C | C7H10BrNS
catalyst | Copper (II) oxide | 1.3 g | [Cu]=O
catalyst | sodium iodide | 0.05 g | [I-].[Na+]
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 3-[5-(Dimethylaminomethyl)-3-thienyloxy]-1-propanol | 1.7 g | CN(C)CC1=CC(=CS1)OCCCO | C10H17NO2S
